US07037938B2
To a solution of methyl 4-bromo-2-methoxybenzoate (2.0 g) in 1,4-dioxane (40 ml) was added bis(pinacolato)diboron (2.07 g), dichlorobis(triphenylphosphine)palladium(II) (286 mg) and potassium acetate (2.4 g), and the mixture was stirred at 95° C. for 10 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give methyl 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (2.0 g).

reactant | methyl 4-bromo-2-methoxybenzoate | 2.0 g | BrC1=CC(=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | bis(pinacolato)diboron | 2.07 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.4 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 286 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.0 g | COC1=C(C(=O)OC)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H21BO5
